US05100887
Ethyl 2,2-dimethyl-3-phenylpropionate
25 ml of a 1.6M solution of n-butyllithium in n-hexane were added dropwise to a solution of 5.3 ml (7 g, 36 mmol) of ethyl bromoisobutyrate in 20 ml of tetrahydrofuran at -75° to -70° C. The mixture was then warmed to -20° C., 6.42 ml (9.43 g, 54 mmol) of benzylbromide were added dropwise and the mixture was subsequently stirred at room temperature for a further 3 hours. Dilute sulfuric acid was then added to the reaction mixture and the mixture was extracted twice with ether. The organic phase was washed with water, dried over magnesium sulfate and concentrated in vacuo. The crude product (6.6 g) was purified by distillation.

reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl bromoisobutyrate | 36 mmol, 5.3 ml, 7 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | benzylbromide | 54 mmol, 6.42 ml, 9.43 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Ethyl 2,2-dimethyl-3-phenylpropionate | CC(C(=O)OCC)(CC1=CC=CC=C1)C | C13H18O2
